US06657070B2
Sodium cyanide (12.0 g, 244.8 mmol) and 2-ethylbutyraldehyde (10.0 mL, 81.3 mmol) were added to ammonium carbonate (25.4 g, 325.3 mmol) in H2O (300 mL). Ethanol (300 mL) was added and salts precipitated. The reaction mixture was heated to 90° C. After 1 h, the mixture became homogeneous and was stirred at 90° C. for 18 h. After cooling to 25° C., about 500 mL of solvent was removed in vacuo. Concentrated HCl was added to acidify the mixture to pH 1-2 and a precipitate formed. It was filtered and the precipitate was recrystallized from EtOAc to afford 5-(1-ethyl-propyl)-imidazolidine-2,4-dione as a white solid (12.9 g, 93%). Mass Spectrum (−ESI): 169 (M−H)−.

reactant | Sodium cyanide | 244.8 mmol, 12.0 g | [C-]#N.[Na+]
reactant | 2-ethylbutyraldehyde | 81.3 mmol, 10.0 mL | C(C)C(C=O)CC | C6H12O
reactant | ammonium carbonate | 325.3 mmol, 25.4 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | Ethanol | 300 mL | C(C)O | C2H6O
solvent | H2O | 300 mL | O | H2O
product | 5-(1-ethyl-propyl)-imidazolidine-2,4-dione | 12.9 g, 93% | C(C)C(CC)C1C(NC(N1)=O)=O | C8H14N2O2
